US08470803B2
A solution of tert-butyl 5-cyano-6-methoxypyridin-2-yl(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yl)carbamate (0.944 g, 2.48 mmol) in 4 mol/L hydrogen chloride in dioxane (20 mL) was stirred at room temperature for three hours. The solution was then neutralized with 6 mol/L sodium hydroxide until pH=6 to 7. Water was added and the solution was extracted with ethyl acetate. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate, and filtered. The solvent was removed under reduced pressure. The aqueous layer contained precipitate, which was collected by filtration and dried under reduced pressure. The residue was purified by Combiflash to give 6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-ylamino)-2-methoxynicotinonitrile (0.086 g, 9.1%). 1H NMR (400 MHz, DMSO-d6) δ ppm 4.95 (s, 2H), 6.50 (d, J=8.4 Hz, 1H), 7.52 (d, J=1.4 Hz, 1H), 7.64 (d, J=8.1 Hz, 1H), 7.83 (d, J=8.4 Hz, 1H), 9.00 (s, 1H), 9.94 (s, 1H).

reactant | tert-butyl 5-cyano-6-methoxypyridin-2-yl(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yl)carbamate | 2.48 mmol, 0.944 g | C(#N)C=1C=CC(=NC1OC)N(C(OC(C)(C)C)=O)C1=CC2=C(B(OC2)O)C=C1 | C19H20BN3O5
reactant | sodium hydroxide | 6 mol/L | [OH-].[Na+]
reactant | Water | O | H2O
solvent | hydrogen chloride | 4 mol/L | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-ylamino)-2-methoxynicotinonitrile | 0.086 g, 9.1% | OB1OCC2=C1C=CC(=C2)NC2=NC(=C(C#N)C=C2)OC | C14H12BN3O3
